US08809267B2
8-Chloro-2-ethoxy-7-methoxy-quinolin-4-ol was synthesized according to the method presented in the synthesis of 2-Ethoxy-7-methoxy-8-methyl-quinolin-4-ol in Example 132 with the exception of utilizing 2-Chloro-3-methoxy-aniline.

reactant | 2-Ethoxy-7-methoxy-8-methyl-quinolin-4-ol | C(C)OC1=NC2=C(C(=CC=C2C(=C1)O)OC)C | C13H15NO3
reactant | 2-Chloro-3-methoxy-aniline | ClC1=C(N)C=CC=C1OC | C7H8ClNO
product | 8-Chloro-2-ethoxy-7-methoxy-quinolin-4-ol | ClC=1C(=CC=C2C(=CC(=NC12)OCC)O)OC | C12H12ClNO3
